US07700605B2
Stage 5.1: 3-(2-Chloro-pyrimidin-4-yloxy)-phenol
Sodium hydroxide (1.68 g; powder 98% pure; 40 mmol) is dissolved in water (30 mL), cooled to 0° C. and treated with benzene-1,3-diol (4.4 g; 40 mmol). Within 15 min, 2,4-dichloropyrimidine (5.95 g; 40 mmol) dissolved in acetone (50 mL) is added dropwise, keeping the reaction temperature below 5° C. After 15 min at 0° C., the ice bath is removed and the reaction kept stirring for additional 17.5 h. After filtering off the precipitate, the solvent is removed under reduced pressure. The residual oil is taken up into EtOAc, washed with sodium bicarbonate solution (10%), water and brine and dried over Na2SO4. After filtering, the crude product is isolated as an oil and purified by flash chromatography over silica gel (eluting with CH2Cl2/MeOH; 0-5%) to give the title compound of Stage 5.1 as a beige solid; ES-MS: [M+H]+; m/z=223; Rf (CH2Cl2/MeOH 9:1)=0.57; HPLC: AtRet=3.50 min.

reactant | Sodium hydroxide | 40 mmol, 1.68 g | [OH-].[Na+]
reactant | benzene-1,3-diol | 40 mmol, 4.4 g | C1(=CC(=CC=C1)O)O | C6H6O2
reactant | 2,4-dichloropyrimidine | 40 mmol, 5.95 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | water | 30 mL | O | H2O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 3-(2-Chloro-pyrimidin-4-yloxy)-phenol | ClC1=NC=CC(=N1)OC=1C=C(C=CC1)O | C10H7ClN2O2
